US08563565B2
(2) Synthesis of ethyl 5-[2-nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate
A mixture of ethyl 5-(4-bromo-2-nitrophenyl)-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate (650 mg), bis(pinacolato)diboron (483 mg), Pd(dppf)Cl2-DCM complex (64.7 mg) and potassium acetate (467 mg) was dried under reduced pressure using a vacuum pump for one hour. DMF (6.5 mL) was added to the dried residue, and the mixture was stirred at 80° C. for four hours. The reaction mixture was returned to room temperature and then filtered through Celite™. The filtrate was concentrated under reduced pressure. Water was added to the residue, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 50% to 100%) to give the title compound (417 mg).

reactant | ethyl 5-(4-bromo-2-nitrophenyl)-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate | 650 mg | BrC1=CC(=C(C=C1)C1=C(C=NN1[C@@H]1COCC1)C(=O)OCC)[N+](=O)[O-] | C16H16BrN3O5
reactant | bis(pinacolato)diboron | 483 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 467 mg | C(C)(=O)[O-].[K+]
product | ethyl 5-[2-nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate | 417 mg | [N+](=O)([O-])C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C1=C(C=NN1[C@@H]1COCC1)C(=O)OCC | C22H28BN3O7
